Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
numbness 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a patient known to our service.  Pt is a ___ yo F 
hx chiari malformation and decompression ___ and Pituitary 
adenoma on cabergoline who had been managing back pain since 
___.  She developed bilat buttock pain, went to ___ but it 
didn't help. ___ weeks ago the back pain and bilat buttock pain 
got worse, radiating largely to right leg and she would have 
periodic numbness in the right leg. She described that the 
entire leg would go numb.  She also had pain into the left leg. 
The week of ___ pain and numbness significantly worsened and 
she suddenly developed a worsening left foot drop
and was taken to an OSH ED and admitted for pain control; her 
exam worsened and she noted numbness extending to her buttocks 
and thighs, bilateral foot numbness and saddle anesthesia. Her 
exam continued to deteriorate with decreasing rectal tone and 
bilateral foot drop. She was transferred from OSH to ___ ED 
where an MRI revealed an L4/5 disc and Cauda ___ syndrome. 
She was brought to our ED and went to the OR on ___ for an L4/5 
lami and discectomy.  She had a foley placed for urinary 
retention and remained incontinent of stool
post operatively. She was discharged from ___ to ___ 
where she noted yesterday that she was becoming short of breath 
while standing. She was transferred to ___ where a 
CT chest showed a large saddle PE, and dopplers revealed 
extensive ___ DVTs. She was started on a heparin drip and had 
what sounds like a screening MRI and reportedly had an epidural 
blood collection. Heparin drip was discontinued and she had a 
IVC filter placed and
transferred to ___ for possible evacuation. 

ROS as above, otherwise limited by patient response.
 
Past Medical History:
hx pituitary adenoma on cabergoline
chiari malformation s/p decompression ___ (age ___
Caude equine syndrome s/p emergent L4-5 laminectomy ___ Dr. 
___ 
 
___ History:
___
Family History:
unavailable due to patient acute illness
 
Physical Exam:
ON ADMISSION: 

Gen: WD/WN, comfortable, NAD.
HEENT: NCNT
Neck: Supple.
Lungs: Non labored respirations
Cardiac: RRR. S1/S2.
Abd: Soft, NT
Extrem: Warm and well-perfused.

Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Motor:
         IP   Q  H     AT    ___   G
R         ___     4+    0     2
L         ___     4+    0     2

Sensation: Decreased sensation bilateral posterior thighs, 
calves and lateral and plantar aspect of feet, improved 
sensation to medial aspect of feet. Anterior thighs, shins with 
good sensation, decreased sensation dorsal aspect of bilateral 
feet. 

Babinski- flat
Incontinent of bowel
Foley for urinary retention

Surgical wound- well healed, staples intact

ON DISCHARGE: 
T98.5 BP 102/65 HR99 RR16 O298 RA
Gen: young woman in no acute distress
CV: tachycardic, no murmurs, no rubs, no gallops
Pulm: clear to air bilaterally
Abd: bowel sounds present, soft, nontender
Ext: mild edema of lower extremities bilaterally, left leg in 
wrapped gauze 
 
Pertinent Results:
ADMISSION LABS: 
___ 09:42AM   GLUCOSE-90 UREA N-11 CREAT-0.7 SODIUM-139 
POTASSIUM-4.3 CHLORIDE-101 TOTAL CO2-21* ANION GAP-17
___ 09:42AM   WBC-7.1 RBC-3.36* HGB-10.3* HCT-30.4* MCV-91 
MCH-30.7 MCHC-33.9 RDW-11.1 RDWSD-36.3
___ 09:42AM   PLT COUNT-175
___ 09:42AM   ___ PTT-31.8 ___
___ 06:04AM URINE  BLOOD-MOD* NITRITE-NEG PROTEIN-30* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-MOD*
___ 12:23AM   ALBUMIN-3.6 CALCIUM-9.0 PHOSPHATE-3.8 
MAGNESIUM-2.1
___ 12:23AM   ALT(SGPT)-72* AST(SGOT)-63* ALK PHOS-73 TOT 
BILI-0.5
___ 12:23AM   WBC-7.1 RBC-3.43* HGB-10.6* HCT-30.8* MCV-90 
MCH-30.9 MCHC-34.4 RDW-11.3 RDWSD-36.6
___ 12:23AM   NEUTS-64.8 ___ MONOS-10.9 EOS-1.0 
BASOS-0.3 IM ___ AbsNeut-4.57 AbsLymp-1.57 AbsMono-0.77 
AbsEos-0.07 AbsBaso-0.02

IMAGING:

MR ___ SPINE ___ ___: please eval MR lumbar spine from 
___ for epidural hematoma at recent L4-5  laminectomy site. 
in Life Image at ___  
IMPRESSION:  
  
1.  The patient is status post bilateral laminectomies at L4-5 
level, with 
fluid collection surrounding the posterior aspect of the thecal 
sac as 
described detail above, measuring approximately 34 by 40 mm in 
transverse 
dimension, likely consistent with a postsurgical seroma, please 
note that 
there is small amount of fluid extending towards the superficial 
soft tissues, 
apparently communicated with this collection, the possibility of 
underlying 
CSF fistulous tract cannot be completely rule out. 
  
2.  Posterior disc protrusion identified at L4-5 level, causing 
anterior 
thecal sac deformity and impinging the thecal sac as described 
detail above. 
  
3.  Mild disc degenerative changes at L5-S1 level remain 
unchanged. 

US Abdomen: ___
IMPRESSION: 
1. IVC filter appears appropriately positioned, terminating to 
the right of midline at the level of the L2 vertebral body. 
2. Gaseous distention of the stomach.  No evidence of small 
bowel obstruction. 

___: US Lower extremities for DVT:
IMPRESSION: 
1. Extensive deep vein thrombus in the left leg from the calf 
veins extending 
into the popliteal vein, femoral vein and into the common 
femoral vein. 
2. No DVT seen in the right leg. 
  
RECOMMENDATION(S):  CT or MR venogram is recommended to evaluate 
the pelvic 
veins and IVC for cranial extension of the clot 

ECHO ___:
The left atrium is normal in size. The right atrial pressure 
could not be estimated. There is normal left ventricular wall 
thickness with a normal cavity size. There is normal regional 
left ventricular systolic function. The visually estimated left 
ventricular ejection fraction is 55-60%. Left ventricular 
cardiac index is normal (>2.5 L/min/m2). There is no resting 
left ventricular outflow tract gradient. No ventricular septal 
defect is seen. There is normal diastolic function. Normal right 
ventricular cavity size with normal free wall motion. Tricuspid 
annular plane systolic excursion (TAPSE) is normal. The aortic 
sinus diameter is normal for gender with normal ascending aorta 
diameter for gender. The aortic arch
diameter is normal. There is no evidence for an aortic arch 
coarctation. The aortic valve leaflets (3) appear structurally 
normal. There is no aortic valve stenosis. There is trace aortic 
regurgitation. The mitral valve leaflets appear structurally 
normal with no mitral valve prolapse. There is mild [1+] mitral 
regurgitation. There is mild pulmonic regurgitation. A thrombus 
is visible in the main pulmonary artery favoring the right 
pulmonary artery (clips 18 and 19). The tricuspid valve leaflets 
appear structurally normal. There is mild [1+] tricuspid 
regurgitation. The estimated pulmonary artery systolic pressure 
is high normal. There is no pericardial effusion.

CTA ABDOMEN PELVIS ___:
IMPRESSION: 
1. Extensive left iliofemoral DVT raises concern for ___ 
syndrome.  
IVC filter in place. 
2. Postoperative changes of L4-L5 laminectomy with small fluid 
collection. 

KUB ___:
IMPRESSION:    
No evidence of small-bowel obstruction.  Scattered colonic 
air-fluid levels. 

Held labs in final days of hospitalization given medical 
stability and plan for transfer to rehab. 

DISCHARGE LABS:
___ 04:59AM BLOOD WBC-5.5 RBC-2.86* Hgb-8.5* Hct-26.3* 
MCV-92 MCH-29.7 MCHC-32.3 RDW-11.7 RDWSD-39.6 Plt ___
___ 04:59AM BLOOD ___ PTT-36.4 ___
___ 04:43AM BLOOD Glucose-100 UreaN-10 Creat-0.5 Na-139 
K-4.6 Cl-99 HCO3-28 AnGap-12
___ 06:14AM BLOOD ALT-134* AST-55* LD(LDH)-286* 
AlkPhos-121* TotBili-0.2
___ 04:43AM BLOOD Albumin-3.1* Calcium-9.3 Phos-5.1* Mg-2.4
___ 06:02AM BLOOD calTIBC-233* Hapto-475* Ferritn-840* 
TRF-179*
 
Brief Hospital Course:
PATIENT SUMMARY
====================
Ms. ___ is a ___ s/p emergent OR L4-5 laminectomy 
___ with Dr. ___ cauda ___ syndrome, who 
___ to outside hospital from rehab with SOB and was 
found to have saddle PEs and DVTs for which heparin gtt started. 
MRI lumbar spine at OSH revealed residual L4-5 disc with 
possible epidural hematoma collection. Heparin drip was 
discontinued and IVC filter was placed at OSH prior to patient 
being transferred to ___ for neurosurgical evaluation. On 
admission patient was admitted to the ___ for close 
neurological monitoring with the following hospital course 
below.

ACTIVE ISSUES ADDRESSED
=======================
#Concern for epidural hemorrhage
When patient arrived to the ICU she reported her BLE 
strength/motor was stable to when she left ___ on ___ or 
possibly improved. A second opinion ___ was obtained on the OSH 
MRI L spine which showed the fluid collection was likely 
consistent with a postsurgical seroma. No hematoma present. She 
was restarted on heparin gtt for saddle PE and DVTs. 

#Saddle PE
Bilateral DVTs
Patient was admitted to the ICU satting 94-95% on RA. VSS. Based 
on second opinion ___ of her MRI L spine at the OSH there was 
no concern for hemorrhage and she was restarted on her heparin 
gtt for Saddle PE and DVTs with goal PTT 50-70. MASCOT was 
contacted who determined the patient was not a candidate for 
catheter based thrombolysis given her clinical exam, and stable 
respiratory picture. IVC filter was not removed. Heparin gtt was 
titrated for a ptt goal of 60-80, goal was attained on ___. 
Patient was started on Coumadin on ___ with plan for bridge off 
of heparin gtt. INRs were checked daily for a goal INR of ___. 
Patient was transitioned from her heparin gtt to Coumadin on 
___. On ___, her Coumadin was held for a supratherapeutic INR 
of 3.5. During morning rounds, it was noted that her left leg 
was significantly swollen and the patient was complaining of 
pain. An ultrasound was completed which demonstrated that there 
was no flow of the deep veins in the left leg. Vascular surgery 
was reconsulted; they wrapped her leg and pulse checks were 
initiated. A hematology/oncology consult was ordered and labs to 
rule out HIT were sent. Hematology recommended reversing the 
Coumadin since it is possible the patient is non-responsive and 
to start her on therapeutic Lovenox. CTA abdomen, pelvis, and 
lower extremities showed extension of DVT to level of common 
illiacs with partial occlusion to total occlusion of LLE. The 
patient's lovenox was titrated for therapeutic level of 0.86 at 
4 hrs post-administration of lovenox ___ mg SC Q12H. Patient to 
f/u with vascular medicine after discharge. Patient to obtain 
compression stockings for b/l leg swelling as outpatient to 
increase compression and blood return to lower extremities.

#Orthostatic hypotension: Likely ___ prolonged immobility over 
the
last few weeks, also poor cardiac reserve in the setting of 
large
clot burden. She has been persistently tachycardic, which is
expected for her RV function and clot burden. TTE on ___ showed 
normal RV function and size. AM cortisol negative for adrenal 
insufficiency. Her orthostatic hypotension improved and on day 
of d/c was negative for drop in BP and she was asymptomatic when 
standing and walking with physical therapy team.

#Elevated transaminases: Patient with increased AST, ALT, 
alkaline phosphatase on ___ from stable prior ___. No liver 
history. Transaminases were mildly elevated on arrival with peak 
of 5x ULN (AST 158, ALT 300) suggesting exacerbation of a 
pre-existing liver condition. Physical exam and CT with contrast 
are unremarkable for any evidence of chronic liver disease (and 
do not suggest Budd-Chiari). TTE did not show evidence of R 
heart failure from the PE, so it is not congestive hepatopathy. 
Hepatitis labs and autoimmune lab w/u was thus far negative. 
LFTs were downtrending on d/c. We would recommend outpatient w/u 
of issue as transitional issue.

# Urinary retention: Patient has had persistent urinary 
retention since her operation, has been persistent and stable 
for over 2 weeks. She received intermittent straight cath Q6hr.

#Constipation (resolved): Constipated while in house without 
taking
opioids. Likely ___ immobility and also has urinary retention 
after
surgery. Air fluid level with colonic ileus on KUB which 
resolved with large BM after aggressive bowel regimen. Would 
recommend regular bowel regimen with decreased mobility. 

#UTI: Patient was found to have UTI at the OSH and was started 
on ceftriaxone. Antibiotic course was completed on ___. 

# Fever (resolved) 
The patient spiked fever to 101.3 on ___ with mild 
leukocytosis.
Unclear etiology. Pt has been afebrile since. Infectious w/u 
(including Ua/UCx, CXR, blood cultures) was negative.

#Cauda ___ s/p L4-5 laminectomy: Patient with acute 
rehabilitation needs and was evaluated by ___. Rehabilitation 
complicated by orthostatic hypotension as described above. MRI 
lumbar spine - second opinion ___ no hematoma, stable post-op 
changes. Pain was well-controlled with Tylenol.

Transitional Issues
====================
[] Patient being discharged to acute rehab at ___
[] PE/DVTs: patient d/c'd on ___ SC for anticoagulation 
 [] F/u with vascular medicine clinic at ___ as scheduled
 [] F/u with ___ clinic at ___ as scheduled
[] Elevated transaminases: repeat LFTs within 1 week of 
discharge. Consider further w/u as outpatient if persistently 
elevated
[] Anxiety
 [] Uptitration of duloxetine PRN for mood
 [] Recommend outpatient enrollment in ___ partial 
program if patient still has needs
[] L4/L5 laminectomy/discectomy
 [] Please call ___ for a Neurosurgery follow-up 
 appointment with Dr. ___ in 4 weeks.
[] Do not apply any lotions or creams to the surgical site
[] Do not scrub surgical site

Code status: FULL (presumed)
#CONTACT: ___ (mother), ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild 
2. cabergoline 0.5 mg oral 1X/WEEK (SA) 
3. Docusate Sodium 100 mg PO BID 
4. OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 
5. Senna 17.2 mg PO QHS 

 
Discharge Medications:
1.  Bisacodyl 10 mg PO/PR DAILY:PRN Constipation  
2.  DULoxetine 20 mg PO DAILY  
3.  Enoxaparin Sodium 120 mg SC Q12H  
4.  FoLIC Acid 1 mg PO DAILY  
5.  Polyethylene Glycol 17 g PO DAILY  
6.  RisperiDONE 0.5 mg PO QHS  
7.  RisperiDONE 0.5 mg PO DAILY:PRN anxiety  
8.  Vitamin D 1000 UNIT PO DAILY  
9.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
10.  cabergoline 0.5 mg oral 1X/WEEK (SA)  
11.  Senna 17.2 mg PO QHS  
 
Discharge Disposition:
Extended Care
 
Facility:
___ 
___)
 
Discharge Diagnosis:
Primary
Deep vein thrombosis
Pulmonary embolism

Secondary:
Cauda ___, s/p surgical decompression in ___

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,  

It was a pleasure caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You were in the hospital because you had shortness of breath 
and you were found to have blood clots in the your legs and 
blood clots in your lungs.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- Your blood clots were treated with a blood thinning 
medications. Because the clots got bigger, the medication was 
changed from warfarin and heparin to Lovenox shots
- You had dizziness, fast heart rates, low blood pressure with 
standing which improved overtime and were thought to be related 
to the blood clots
- You received medication for constipation
- You had difficulty passing urine and had a catheter placed
- You had a fever that was thought to be due to your blood clots
- You were seen by our inpatient psychiatry team who recommended 
medications for anxiety

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines and keep your 
appointments.
- Inject the lovenox blood thinner medication every morning and 
every night  
- Make sure to take in enough fluids throughout the day to 
prevent your blood pressure from getting too low
- Follow the post-operative instructions below
- Consider enrolling in a partial psychiatric program to work on 
coping skills
- Please use compression stockings on your legs to minimize 
swelling and improve circulation

We wish you the best!  

Sincerely,  
Your ___ Team  

Surgery:

•Do not apply any lotions or creams to the surgical site. 
•Please avoid swimming for two weeks after staple removal.
•Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity:
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You may take leisurely walks and slowly increase your activity 
at your own pace. ___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•No contact sports until cleared by your neurosurgeon. 

Medications: 
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
•It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation. 

When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the incision 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•New weakness or changes in sensation in your arms or legs.
 
Followup Instructions:
___